US04968683
(a) 6-[4-[4-(Benzoylamino-thiocarbonyl)piperazin-1-yl]-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
27.0 g (0.165 mol) of benzoyl isothiocyanate are added at room temperature to 52.4 g (0.165 mol) of 6-[4-(1-piperazinyl)-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone in 1200 ml of 1,4-dioxane. The reaction mixture is stirred at room temperature for 2 hours and then concentrated to 700 ml under vacuum and left to crystallize. 76 05 g (96% of theoretical) of orange-yellow crystals melting at 174.5°-177° C. are obtained after suction filtration.

reactant | benzoyl isothiocyanate | 0.165 mol, 27.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 6-[4-(1-piperazinyl)-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 0.165 mol | N1(CCNCC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C15H19N5O3
solvent | 1,4-dioxane | 1200 ml | O1CCOCC1 | C4H8O2
product | 6-[4-[4-(Benzoylamino-thiocarbonyl)piperazin-1-yl]-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(C1=CC=CC=C1)(=O)NC(=S)N1CCN(CC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C23H24N6O4S
